US06008058
N-t-Butyloxycarbonyl-L-aspartic acid anhydride (Boc-Asp anydride).
To a solution of 23.3 g N-t-butyloxycarbonyl-L-aspartic acid in 150 mL of tetrahydrofuran was added portionwise 20.6 g of N,N-dicyclohexyl-carbodiimide at 0° C. and overnight at room temperature. The precipitated dicyclohexyl urea was filtered off and all solvent was evaporated under reduced pressure. The oily residue was crystallized from acetone/hexane to give 18.24 g of anydride as white needles.

reactant | N-t-butyloxycarbonyl-L-aspartic acid | 23.3 g | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)O)C(=O)O | C9H15NO6
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | N-t-Butyloxycarbonyl-L-aspartic acid anhydride | C(C)(C)(C)OC(=O)N[C@H]1CC(=O)OC1=O | C9H13NO5
